US04618678
Diketene (84 g) was added dropwise with stirring to 140 g of 2-phenoxyethanol heated at 100° C. After the addition was completed, the reaction mixture was refluxed for an additional 22 hours. The reaction mixture was fractionally distilled to obtain 90.6 g of 2-phenoxyethyl acetoacetate, BP 140°-145° C./0.3 mm.

reactant | Diketene | 84 g | C=C1CC(=O)O1 | C4H4O2
reactant | 2-phenoxyethanol | 140 g | O(C1=CC=CC=C1)CCO | C8H10O2
product | 2-phenoxyethyl acetoacetate | 90.6 g | C(CC(=O)C)(=O)OCCOC1=CC=CC=C1 | C12H14O4
